US04511573
A mixture of 1.0 g of 5-chloro-3-[5-(ethoxycarbonyl)pentyl]-1-methyl-2-(3-pyridyl)indole in 20 ml of 2N aqueous hydrochloride acid is stirred and heated at reflux overnight. The mixture is cooled and the solid formed collected and dried in vacuo to give 5-chloro-3-(5-carboxypentyl)-1-methyl-2-(3-pyridyl)indole hydrochloride, m.p. 186°-189°.

reactant | 5-chloro-3-[5-(ethoxycarbonyl)pentyl]-1-methyl-2-(3-pyridyl)indole | 1.0 g | ClC=1C=C2C(=C(N(C2=CC1)C)C=1C=NC=CC1)CCCCCC(=O)OCC | C22H25ClN2O2
solvent | hydrochloride | 2N, 20 ml | Cl | ClH
product | 5-chloro-3-(5-carboxypentyl)-1-methyl-2-(3-pyridyl)indole hydrochloride | Cl.ClC=1C=C2C(=C(N(C2=CC1)C)C=1C=NC=CC1)CCCCCC(=O)O | InChI=1S/C20H21ClN2O2.ClH/c1-23-18-10-9-15(21)12-17(18)16(7-3-2-4-8-19(24)25)20(23)14-6-5-11-22-13-14;/h5-6,9-13H,2-4,7-8H2,1H3,(H,24,25);1H
